US07138402B2
A suspension of 2,4-diamino-6-hydroxypyrimidine (6.68 g, 50 mmol), AcONa (8.3 g 100 mmol) and 3-bromo-4-methyl-pentanal (8.76 g, 50 mmol) in CH3CN (100 mL) and H2O (100 mL) was stirred at 25° C. overnight whereupon the starting materials gradually dissolved and the desired pyrrolo[2,3-d]pyrimidine precipitated. The precipitate was collected by filtration and washed with MeOH to give 2-amino-5-isopropyl-3,7-dihydro-pyrrolo[2,3-d]pyrimidin-4-one (3.80 g, 40%). HPLC Rt: 4.408 min. 1H-NMR (DMSO-d6): δ 10.58 (s, 1H), 10.10 (s, 1H), 6.30 (s, 1H), 5.97 (s, 2H), 3.03 (7, 1H), 1.20 (s, 3H), 1.19 (s, 3H).

reactant | 2,4-diamino-6-hydroxypyrimidine | 50 mmol, 6.68 g | NC1=NC(=CC(=N1)N)O | C4H6N4O
reactant | AcONa | 100 mmol, 8.3 g | C(=O)(C)O[Na]
reactant | 3-bromo-4-methyl-pentanal | 50 mmol, 8.76 g | BrC(CC=O)C(C)C | C6H11BrO
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | H2O | 100 mL | O | H2O
product | 2-amino-5-isopropyl-3,7-dihydro-pyrrolo[2,3-d]pyrimidin-4-one | 3.80 g, 40% | NC=1NC(C2=C(N1)NC=C2C(C)C)=O | C9H12N4O
